US07498337B2
tert-butyl ({5-(2-fluoropyridin-3-yl)-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate
A suspension of tert-butyl ({5-bromo-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate (206 mg), (2-fluoropyridin-3-yl)boronic acid (80 mg), sodium carbonate (119 mg) and tetrakis(triphenylphosphine)palladium (80 mg) in 1,2-dimethoxyethane (5 mL) and water (2.5 mL) was stirred under a nitrogen atmosphere at 105° C. for 1 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1) to give the title compound as a pale-yellow oil (yield 87 mg, 41%).

reactant | tert-butyl ({5-bromo-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate | 206 mg | BrC1=CC(=CN1S(=O)(=O)C=1C=NC(=CC1)C)CN(C(OC(C)(C)C)=O)C | C17H22BrN3O4S
reactant | (2-fluoropyridin-3-yl)boronic acid | 80 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 119 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | water | 2.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl ({5-(2-fluoropyridin-3-yl)-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate | yield 87 mg, 41% | FC1=NC=CC=C1C1=CC(=CN1S(=O)(=O)C=1C=NC(=CC1)C)CN(C(OC(C)(C)C)=O)C | C22H25FN4O4S
